US04797492
3-Dimethylcarbamoylamino-5-trifluoromethylisoxazole
Dry tetrahydrofuran (84.6 ml) was added to diisopropylamine (dried with potassium hydroxide, 9.85 g, 0.0973 mole) nder a nitrogen atmosphere. The solution was cooled to -60° C. and thereto was added a 15% solution of n-butyllithium in n-hexane (58.5 ml, 0.0901 mole). After being stirred at 0° C. for 30 minutes, it was cooled to -75° C. A mixture of t-butyl trifluoroacetate (10.80 g, 0.0635 mole), 5-dimethylamino-3-methyl-1,2,4-oxadiazole (5.72 g, 0.0423 mole) and dry tetrahydrofuran (423 ml) was added dropwise to it at -73--75° C. over 1.5 hours. After being stirred at -75° C. for 1 hour, it was allowed to warm to room temperature over 1 hour. It was further heated to 50° C. and stirred for 30 minutes. 1N hydrochloric acid (190 ml) was then added thereto with ice cooling and tetrahydrofuran and n-hexane were distilled off under reudced pressure in a water bath at 40° C. After being extracted with methylene chloride, the extract was concentrated and purified column chromatrography on silica gel to give the crude title compound (8.91 g, crude yield 94.4%). Repeated recrystallizations from benzene gave colorless fine needles, m.p. 126.0°-126.5° C. The structure of this compound was confirmed by IR, NMR and elemental analysis.

reactant | diisopropylamine | 0.0973 mole, 9.85 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 0.0901 mole, 58.5 ml | CCCCCC | C6H14
reactant | t-butyl trifluoroacetate | 0.0635 mole, 10.80 g | FC(C(=O)OC(C)(C)C)(F)F | C6H9F3O2
reactant | 5-dimethylamino-3-methyl-1,2,4-oxadiazole | 0.0423 mole, 5.72 g | CN(C1=NC(=NO1)C)C | C5H9N3O
reactant | hydrochloric acid | 1N, 190 ml | Cl | ClH
solvent | tetrahydrofuran | 423 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 84.6 ml | O1CCCC1 | C4H8O
product | 3-Dimethylcarbamoylamino-5-trifluoromethylisoxazole | 8.91 g | CN(C(=O)NC1=NOC(=C1)C(F)(F)F)C | C7H8F3N3O2
